US07786104B2
9.2 2-Methyl-6-(pyrrolidin-1-yl)-3-aminopyridine (Compound no. Vd)
The process is carried out according to the method described in step 5.2, using 0.55 g (2.65 mmol) of 2-methyl-6-(pyrrolidin-1-yl)-3-nitropyridine, prepared in step 9.1, and 0.1 g of 10% palladium-on-charcoal. 0.34 g of the expected product is thus obtained, which product will be used as it is in the rest of the synthesis.

reactant | 2-methyl-6-(pyrrolidin-1-yl)-3-nitropyridine | 2.65 mmol, 0.55 g | CC1=NC(=CC=C1[N+](=O)[O-])N1CCCC1 | C10H13N3O2
catalyst | palladium-on-charcoal | 0.1 g | [Pd] | Pd
product | 2-Methyl-6-(pyrrolidin-1-yl)-3-aminopyridine | 0.34 g | CC1=NC(=CC=C1N)N1CCCC1 | C10H15N3
